US04900407
The procedure of Example 3 was followed except that the carbazole was replaced by 71 mg of N-methylcarbazole, whereupon 57 mg of 1,3-diphenylpropane (yield 68%) was isolated.

reactant | carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | N-methylcarbazole | 71 mg | CN1C2=CC=CC=C2C=2C=CC=CC12 | C13H11N
product | 1,3-diphenylpropane | 57 mg, yield 68% | C1(=CC=CC=C1)CCCC1=CC=CC=C1 | C15H16
